US20010027196A1
2-Amino-4-benzo[1,3]dioxol-5-yl-6-benzylamino-pyrimidine-5-carbonitrile
From 2-Amino-4-benzo [1,3] dioxol-5-yl-6-methylsulfanyl-pyrimidine-5-carbonitrile and benzylamine in ethanol. ES-MS m/e (%): 346 (M+H+, 100).

reactant | 2-Amino-4-benzo [1,3] dioxol-5-yl-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)SC | C13H10N4O2S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-benzo[1,3]dioxol-5-yl-6-benzylamino-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)NCC1=CC=CC=C1 | C19H15N5O2
